US06949542B2
(2-Amino-5-chloro-4-methyl-phenyl)-carbamic acid tert-butyl ester was prepared from (5-chloro-4-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example A16) (11.9 g, 41.4 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a yellow solid (9.25 g, 87%).

reactant | (5-chloro-4-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester | 41.4 mmol, 11.9 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C)[N+](=O)[O-])=O | C12H15ClN2O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | (2-Amino-5-chloro-4-methyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C)N)=O | C12H17ClN2O2
